US08466186B2
(a) 3-Amino-4-trifluoromethyl-benzonitrile
A closed pressure tube charged with 3-fluoro-4-trifluoromethyl-benzonitrile (10.0 g; 52.9 mmol) and liquid NH3 (60 mL) was heated for 6 days at 90° C. The tube was cooled to −60° C. and opened. The mixture was allowed to stir for 1 h at rt, washed with brine, extracted with EtOAc, dried over Na2SO4, filtered and concentrated.

reactant | 3-fluoro-4-trifluoromethyl-benzonitrile | 52.9 mmol, 10.0 g | FC=1C=C(C#N)C=CC1C(F)(F)F | C8H3F4N
reactant | NH3 | 60 mL | N | H3N
product | 3-Amino-4-trifluoromethyl-benzonitrile | NC=1C=C(C#N)C=CC1C(F)(F)F | C8H5F3N2
